US08232271B2
Preparation of 26—To a solution of 4-tert-butyl-3-methoxy-benzoic acid (3 g, 14.4 mmol, CASRN 79822-46-1) and THF (60 mL) cooled to 0° C. was added a solution of LiAlH4 in THF (29 mL, 28.8 mmol, 1M THF solution). The reaction was stirred overnight at RT then quenched by dropwise addition of aqueous THF (1.1 mL of water in 10 mL of THF) followed by 1.1 mL of 15% NaOH and then 3.3 mL of water. The reaction was stirred for 1 h then solid Na2SO4 was added and the resulting suspension stirred overnight, filtered through a pad of CELITE, and evaporated to afford 2.8 g of 4-tert-butyl-3-methoxy-benzyl alcohol.

reactant | 4-tert-butyl-3-methoxy-benzoic acid | 14.4 mmol, 3 g | C(C)(C)(C)C1=C(C=C(C(=O)O)C=C1)OC | C12H16O3
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 28.8 mmol, 1M, 29 mL | C1CCOC1 | C4H8O
product | 4-tert-butyl-3-methoxy-benzyl alcohol | 2.8 g | C(C)(C)(C)C1=C(C=C(CO)C=C1)OC | C12H18O2
